US08039580B2
a) Synthesis of 4-tert-butyldimethylsilyl-benzaldehyde
4-Hydroxy-benzaldehyde (10 g, 0.082 mol) is dissolved in 100 ml of dichloromethane. There are added to that solution, at ambient temperature, chlorotrimethylsilane (11.72 g, 0.078 mol) as well as dimethylaminopyridine (1 g, 0.008 mol) and triethylamine (23 ml, 0.164 mol). The whole is left at ambient temperature for 48 hours with magnetic stirring, and then the solvent is evaporated off under reduced pressure. The resulting solid is stirred in pure pentane (3×200 ml), and the silylated product is extracted in that manner.

reactant | 4-Hydroxy-benzaldehyde | 0.082 mol, 10 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | chlorotrimethylsilane | 0.078 mol, 11.72 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | dimethylaminopyridine | 0.008 mol, 1 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | triethylamine | 0.164 mol, 23 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-tert-butyldimethylsilyl-benzaldehyde | [Si](C)(C)(C(C)(C)C)C1=CC=C(C=O)C=C1 | C13H20OSi
